US06417202B1
3-Acetyl-4-methyl-2.5di(4-pyridyl)-1H-pyrrole Dihydrochloride Monohydrate
3-Acetyl-4-methyl-2,5-di(4-pyridyl)-1H-pyrrole was dissolved in 10% HCl-MeOH. After removal of volatiles, the crude salt was recrystallized from EtOH to give the title compound.

reactant | 3-Acetyl-4-methyl-2,5-di(4-pyridyl)-1H-pyrrole | C(C)(=O)C1=C(NC(=C1C)C1=CC=NC=C1)C1=CC=NC=C1 | C17H15N3O
reactant | HCl MeOH | Cl.CO
product | 3-Acetyl-4-methyl-2.5di(4-pyridyl)-1H-pyrrole Dihydrochloride Monohydrate | O.Cl.Cl.C(C)(=O)C1=C(NC(=C1C)C1=CC=NC=C1)C1=CC=NC=C1 | InChI=1S/C17H15N3O.2ClH.H2O/c1-11-15(12(2)21)17(14-5-9-19-10-6-14)20-16(11)13-3-7-18-8-4-13;;;/h3-10,20H,1-2H3;2*1H;1H2
